US07691882B2
(6-Methoxy-pyridin-2-yl)-methanol
To a mixture of 2-bromo-6-methoxypyridine (500 mg, 2.66 mmol) and toluene (20 mL) was added dropwise n-butyl lithium (1.84 mL, 1.6 M hexane solution, 2.93 mmol) at −78° C., which was stirred for 30 minutes. N,N-dimethylformamide (412 μL, 5.32 mmol) was added dropwise to the mixture at the same temperature, which was stirred for 45 minutes at 0° C. Water and tetrahydrofuran were added to the reaction solution and vigorously stirred. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. Sodium borohydride (201 mg, 5.31 mmol) was added to this filtrate at 0° C., which was stirred for 2 hours at room temperature. Water was added to the reaction solution, which was then exacted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried with anhydrous magnesium sulfate, and then dried. This filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (hexane:diethyl ether=2:1) to obtain the title compound (104.8 mg, 28%).

reactant | 2-bromo-6-methoxypyridine | 2.66 mmol, 500 mg | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | n-butyl lithium | 2.93 mmol, 1.6 M, 1.84 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 5.32 mmol, 412 μL | CN(C=O)C | C3H7NO
reactant | Sodium borohydride | 5.31 mmol, 201 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (6-Methoxy-pyridin-2-yl)-methanol | 104.8 mg, 28% | COC1=CC=CC(=N1)CO | C7H9NO2
